US04120969
4-[(4-Hydroxy-4-phenyl-1-piperidinyl)methyl]-3,3-diphenyl-2-pyrrolidinone Hydrochloride
To 10.0 g. (0.035 mole) of 4-(chloromethyl)-3,3-diphenyl-2-pyrrolidinone in 150 ml. of ethanol in a steel bomb was added 15.0 g. (0.11 mole) of potassium carbonate (finely ground) and 6.2 g. (0.035 mole) of 4-hydroxyl-4-phenylpiperidine. The mixture was heated to 200° C. for 48 hours and rotated slowly to effect mild stirring. After concentrating in vacuo, the residue was partitioned between dilute hydrochloric acid solution and ethyl acetate. The acid solution was made basic with sodium hydroxide and extracted with chloroform. The chloroform was dried, filtered and concentrated in vacuo. The residue was dissolved in isopropanol and treated with oxalic acid, and the oxalate salt of the starting piperidine compound precipitated out. The filtrate was concentrated in vacuo and the residue was partitioned between dilute sodium hydroxide and chloroform. The chloroform solution was dried (sodium sulfate), filtered, and concentrated in vacuo. The residue was dissolved in ethyl acetate and a solid formed which was filtered off. The filtrate was treated with ethereal hydrogen chloride and the hydrochloride salt was recrystallized in isopropanol-methanol. The salt (2.6 g., 17%) melted above 250° C.

reactant | 4-(chloromethyl)-3,3-diphenyl-2-pyrrolidinone | 0.035 mole | ClCC1C(C(NC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H16ClNO
reactant | potassium carbonate | 0.11 mole | C([O-])([O-])=O.[K+].[K+]
reactant | 4-hydroxyl-4-phenylpiperidine | 0.035 mole | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
solvent | ethanol | C(C)O | C2H6O
product | 4-[(4-Hydroxy-4-phenyl-1-piperidinyl)methyl]-3,3-diphenyl-2-pyrrolidinone Hydrochloride | Cl.OC1(CCN(CC1)CC1C(C(NC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H30N2O2.ClH/c31-26-28(23-12-6-2-7-13-23,24-14-8-3-9-15-24)25(20-29-26)21-30-18-16-27(32,17-19-30)22-10-4-1-5-11-22;/h1-15,25,32H,16-21H2,(H,29,31);1H
